US06716851B2
4-(2-Chloro-5-hydroxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-chloro-5-hydroxyaniline (42 mg, 0.290 mmol) similar to Example 108 and isolated as a brown solid (3 mg, 4%). 1H NMR (CDCl3): 8.68 (dd, J=1.8, 4.5 Hz, 2H), 8.13 (dd, J=1.8, 4.2 Hz, 2H), 7.99 (d, J=2.7 Hz, 1H), 7.34 (s, 1H), 7.33 (d, J=8.7 Hz, 1H), 6.98 (s, 1H), 6.73 (dd, J=2.7, 8.7 Hz, 1H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 2-chloro-5-hydroxyaniline | 0.290 mmol, 42 mg | ClC1=C(N)C=C(C=C1)O | C6H6ClNO
product | 4-(2-Chloro-5-hydroxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C=C1)O | C16H10ClF3N4O
